US09130244B2
6.10 g (0.029 mol) of the obtained di(2-propynyl) 2-hydroxysuccinate and 3.32 g (0.029 mol) of methanesulfonyl chloride were added to 40 g of ethyl acetate, and 2.93 g (0.029 mol) of triethylamine was dropwise added thereto within a range of from 5° C. to 15° C., taking 15 minutes. This was reacted at room temperature for 1 hour, the disappearance of the starting materials was confirmed through gas chromatography, and 20 ml of water was added for liquid-liquid separation. The organic layer was concentrated under reduced pressure. The residue was purified through column chromatography (Wakogel C-200, elution with hexane/ethyl acetate=2/1) to give 4.50 g (yield 54%) of the intended di(2-propynyl) 2-(methanesulfonyloxy)succinate.

reactant | di(2-propynyl) 2-hydroxysuccinate | 0.029 mol, 6.10 g | OC(C(=O)OCC#C)CC(=O)OCC#C | C10H10O5
reactant | methanesulfonyl chloride | 0.029 mol, 3.32 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl acetate | 40 g | C(C)(=O)OCC | C4H8O2
reactant | triethylamine | 0.029 mol, 2.93 g | C(C)N(CC)CC | C6H15N
solvent | water | 20 ml | O | H2O
product | di(2-propynyl) 2-(methanesulfonyloxy)succinate | 4.50 g, yield 54% | CS(=O)(=O)OC(C(=O)OCC#C)CC(=O)OCC#C | C11H12O7S
